### PR TITLE
[Merged by Bors] - feat(Geometry/Manifold): interior and boundary are preserved by (local) diffeomorphisms

### PR DESCRIPTION
**Pull request by peabrainiac**
If `f` is a local diffeomorphism at `x`, `f x` is an interior point iff `x` is. We prove this and a bunch of corollaries, in particular that `BoundarylessManifold` is invariant under diffeomorphisms which we need for subsequent work.

---

- [x] depends on: #33189

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean [hunk 1]
```diff
@@ -197,6 +208,215 @@ lemma Boundaryless.of_boundary_eq_empty (h : I.boundary M = ∅) : BoundarylessM
...
+  let _ : NormedSpace ℝ E := NormedSpace.restrictScalars ℝ 𝕜 E
+  let _ : NormedSpace ℝ E' := NormedSpace.restrictScalars ℝ 𝕜 E'
+  simp only [mfderiv, hf, ite_true] at hf'
+  have hf'' := hf.differentiableWithinAt_writtenInExtChartAt.differentiableAt <| by
+    simpa [← mem_interior_iff_mem_nhds] using hx
+  rw [fderivWithin_eq_fderiv (I.uniqueDiffOn _ <| by simp) hf''] at hf'
+  replace hf' : Surjective (fderiv ℝ (writtenInExtChartAt I I' x f) (extChartAt I x x)) := by
+    rwa [hf''.fderiv_restrictScalars (𝕜 := ℝ), ContinuousLinearMap.coe_restrictScalars']
+  replace hf'' := hf''.restrictScalars ℝ
+  have := hf''.mem_interior_convex_of_surjective_fderiv (Filter.inter_mem ?_ ?_) I'.convex_range
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean:376]: Is there a brief informal idea you can add as a comment? This proof is long enough (20 lines) that this is worth it.

File: Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean [hunk 2]
```diff
@@ -197,6 +208,215 @@ lemma Boundaryless.of_boundary_eq_empty (h : I.boundary M = ∅) : BoundarylessM
...
+    I'.isClosed_range I'.nonempty_interior (writtenInExtChartAt_mapsTo.mono_right ?_) hf'
+  · simpa using this
+  · rw [← nhdsWithin_eq_nhds.2 (mem_interior_iff_mem_nhds.1 hx)]
+    exact extChartAt_target_mem_nhdsWithin x
+  · exact extChartAt_preimage_mem_nhds <| hf.continuousAt.preimage_mem_nhds <|
+      extChartAt_source_mem_nhds _
+  · exact extChartAt_target_subset_range _
+
+lemma _root_.IsLocalDiffeomorphAt.isInteriorPoint_iff (hn : n ≠ 0) {f : M → N} {x : M}
+    (hf : IsLocalDiffeomorphAt I I' n f x) : I.IsInteriorPoint x ↔ I'.IsInteriorPoint (f x) := by
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean:386]: I wonder if it's worth generalising this to maps whose `mfderiv` is invertible (this includes local diffeomorphisms, but also extended charts --- which are not local diffeomorphisms unless at an interior point). What do you think?

**Review by grunweg — COMMENTED** [review]
Even though the dependent PR is not borsed yet, I took a look anyway and have two high-level comments.

File: Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean (hunk 2 above)
Comment (peabrainiac) [reply Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean:386]: I think the lemma doesn't hold in that generality - for example, the inclusion of the unit interval into $\mathbb R$ has invertible differential everywhere but maps boundary points to interior points, and a similar issue holds for extended charts on the intersection of the boundary with their domain.

**Comment by peabrainiac** [comment]
I've added comments summarizing the steps of the proof now. I've also merged master and did some missing polish like adding the new results to the module docstring, so the PR should now be actually ready for review.

File: Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean (hunk 2 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean:386]: Er, yes. You're right. Sorry for the noise.

File: Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean [hunk 3]
```diff
@@ -324,6 +335,118 @@ protected lemma isClosed_boundary (hn : n ≠ 0) : IsClosed (I.boundary M) := by
...
+lemma IsLocalDiffeomorphAt.isInteriorPoint_iff (hn : n ≠ 0) {f : M → N} {x : M}
+    (hf : IsLocalDiffeomorphAt I I' n f x) : I.IsInteriorPoint x ↔ I'.IsInteriorPoint (f x) := by
+  refine ⟨fun h ↦ ?_, fun h ↦ ?_⟩
+  · refine (hf.mdifferentiableAt hn).isInteriorPoint_of_surjective_mfderiv ?_ h
+    exact (hf.mfderivToContinuousLinearEquiv hn).surjective
+  · rw [← hf.localInverse_left_inv hf.localInverse_mem_target]
+    refine (hf.localInverse_mdifferentiableAt hn).isInteriorPoint_of_surjective_mfderiv ?_ h
+    exact (hf.mfderivToContinuousLinearEquiv hn).symm.surjective
+
+lemma IsLocalDiffeomorphAt.isBoundaryPoint_iff (hn : n ≠ 0) {f : M → N} {x : M}
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean:394]: I was going to suggest spelling this as:
```lean
lemma IsLocalDiffeomorphAt.isBoundaryPoint_iff [NeZero n] {f : M → N} {x : M}
```
because this will work better with automation (e.g., `simp`) and usually just be carried around as an unchanged hypothesis so we might as well hide it. However I see that this pattern of an explicit argument goes quite deep, all the way back to [ContDiffWithinAt.differentiableWithinAt'](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Calculus/ContDiff/Defs.html#ContDiffWithinAt.differentiableWithinAt') so you are right to just follow that idiom.

However if you have the appetite, it might be worth raising this point on Zulip to see if a PR changing this would be welcome.

File: Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean [hunk 4]
```diff
@@ -324,6 +335,118 @@ protected lemma isClosed_boundary (hn : n ≠ 0) : IsClosed (I.boundary M) := by
...
+lemma IsLocalDiffeomorph.preimage_boundary (hn : n ≠ 0) {f : M → N}
+    (hf : IsLocalDiffeomorph I I' n f) : f ⁻¹' I'.boundary N = I.boundary M := by
+  simpa using (hf.isLocalDiffeomorphOn univ).preimage_boundary_inter hn
+
+lemma IsLocalDiffeomorph.boundarylessManifold (hn : n ≠ 0) {f : M → N}
+    (hf : IsLocalDiffeomorph I I' n f) [BoundarylessManifold I' N] : BoundarylessManifold I M := by
+  simp [← Boundaryless.iff_boundary_eq_empty, ← hf.preimage_boundary hn,
+    Boundaryless.boundary_eq_empty]
+
+lemma Diffeomorph.preimage_interior (hn : n ≠ 0) (Φ : M ≃ₘ^n⟮I, I'⟯ N) :
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/IsManifold/InteriorBoundary.lean:422]: Here is an example (again not a suggestion) where we could probably get some benefit from the `[NeZero n]` spelling because `simp` would fire:
```lean
@[simp] lemma Diffeomorph.preimage_interior [NeZero n] (Φ : M ≃ₘ^n⟮I, I'⟯ N) :
```

**Review by ocfnash — APPROVED** [review]
Thanks!

bors merge
